Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Shellfish Derived
 
Attending: ___.
 
Chief Complaint:
Incisional pain
 
Major Surgical or Invasive Procedure:
Scar injection

 
History of Present Illness:
___ s/p TAH/BSO on ___ who presented to ED with 
abdominal pain x 10d.  Pain started after having large BM 10d 
ago - she stood up from the toilet and was instantly doubled 
over in pain.  It was the first BM since before her surgery.  
The pain at that time was deep abdominal in location and has 
overall improved since that time, turning into the what she 
describes as "gas pain". She has had 2 BM since that time, ___ 
ago and again 2 days ago.  She has been taking colace BID.

She started having burning pain on her ___ skin and 
"about 4 layers deep to the skin" in the same area roughly 8 
days ago.  "It feels like my skin is on fire."  Touching her 
skin exacerbates the pain.  She reports that even when sleeping, 
when her sheets touch the ___ skin, it wakes her 
from
sleep.  She is unable to wear underpants or pants ___ to pain. 
She has never experienced this before; she recovered well after 
her liposuction procedure.

+ nausea when pain is worst, denies emesis.  Tolerating liquids, 
pudding, and yogurt.  Passing flatus.  Denies fevers, chills, 
abnormal vaginal discharge or bleeding.  Has had occasional hot 
flashes and vaginal dryness.  Not sexually active.

In the ED, she received morphine 8mg IV, zofran 4mg IV, and 
dilaudid 0.5 IV.  The dilaudid has had the best effect.  She had 
2L of NS.
 
Past Medical History:
GYNHx:
- denies h/o abnl pap, last pap ___ neg
- Denies h/o STI
- female partners

___: GO

PMH: Mild asthma, chronic back pain - disc degeneration, GERD,
Depression, Insomnia

PSH: 
- TAH BSO as above
- Liposuction x 2, ___ - stomach and thighs
 
Social History:
___
Family History:
NC
 
Physical Exam:
On admission: 
VS:  98.9    67   112/70   16   98RA
uncomfortable appearing
RRR
CTAB
abd - soft, mildly distended +tympany, esp in upper quadrants; 
mostly TTP in 5cm circumferential area around incision, from 
below umbilicus to the mons.  no crepitus.  no cutaneous 
numbness.

inc: Pfannensteil, well healed, partially epithelialized, no 
erythema, exudates, or induration

ext NT b/l
pelvic: deferred

 
Pertinent Results:
___ 07:15PM BLOOD WBC-6.3 RBC-4.60 Hgb-10.3* Hct-33.8* 
MCV-74* MCH-22.5* MCHC-30.6* RDW-14.1 Plt ___
___ 06:20AM BLOOD WBC-5.4 RBC-4.25 Hgb-9.8* Hct-32.3* 
MCV-76* MCH-23.0* MCHC-30.2* RDW-13.9 Plt ___
___ 07:15PM BLOOD Neuts-61.0 ___ Monos-3.5 Eos-3.5 
Baso-0.5
___ 07:15PM BLOOD Glucose-101* UreaN-9 Creat-0.9 Na-137 
K-4.3 Cl-102 HCO3-27 AnGap-12
___ 06:20AM BLOOD Glucose-90 UreaN-13 Creat-1.0 Na-137 
K-4.4 Cl-100 HCO3-28 AnGap-13
___ 06:20AM BLOOD Calcium-9.8 Phos-4.0 Mg-2.2

___ 02:58AM URINE Blood-TR Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-TR
___ 02:58AM URINE RBC-2 WBC-0 Bacteri-NONE Yeast-NONE 
Epi-22
URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

CT ___: IMPRESSION: No definite intra-abdominal abscess. There 
is a small amount of fluid at the operative site, not 
unanticipated. 

 
Brief Hospital Course:
Ms. ___ was admitted from the ED early on ___ with abdominal 
pain and incisional pain. CT had demonstrated no acute 
intraabdominal process. Her pain was felt to be consistent with 
post-operative neuropathy. She was started on tylenol, motrin, 
and dilaudid prn for pain. She was started on a bowel regimen. 
The chronic pain service saw her later that morning and 
performed an incisional injection with steroids and bupivicaine. 
She was also started on gabapentin. She had some immediate 
relief of her pain, however the majority of the benefit wore off 
after several hours. Lidocaine patches were applied with 
excellent relief. She reported a good decrease in her pain where 
she was able to tolerate some touch and the feel of 
clothing/blankets on her skin. She did remain constipated, but 
felt ready for discharge home on ___. Follow-up with the 
chronic pain clinic was arranged.
 
Medications on Admission:
percocet prn, colace, prilosec  
 
Discharge Medications:
1. Ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain.
Disp:*60 Tablet(s)* Refills:*0*
2. Acetaminophen 500 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain.  
3. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day).
Disp:*90 Capsule(s)* Refills:*2*
4. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).
Disp:*60 Tablet, Delayed Release (E.C.)(s)* Refills:*0*
5. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
6. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day).
Disp:*90 Capsule(s)* Refills:*2*
7. Hydromorphone 2 mg Tablet Sig: ___ Tablets PO every four (4) 
hours as needed for pain.
Disp:*50 Tablet(s)* Refills:*0*
8. Lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
Two (2) patch Topical DAILY (Daily): Keep on for 12 hours, off 
for 12 hours .
Disp:*20 patch* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cutaneous neuropathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for nerve pain around your incision. You 
received an injection of an anesthetic and steroid which helped 
lessen the pain. We started you on a medication called 
gabapentin which should start to work in a few days. You also 
were given lidocaine patches to put on your skin and a narcotic 
called dilaudid to help lessen the pain until the steroid 
medication starts to work. You should also continue to take 
Ibuprofen and colace. It is important to drink lots of fluid to 
help keep your stools soft.
 
Followup Instructions:
___